US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,4-triazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1289)
Following a procedure similar to that described in Example 151, (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,4-triazol-3-yl]methylidene}piperidine hydrochloride (820 mg) was treated with potassium carbonate and the crude product was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024N hydrochloric acid, 30/70, v/v) to afford the title compound (560 mg, yield: 74%) as a colourless amorphous solid.

reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,4-triazol-3-yl]methylidene}piperidine hydrochloride | 820 mg | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=N1)CC(=O)OC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 0.024N | C(C)#N | C2H3N
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,4-triazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 560 mg, yield: 74% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=NN(C=N1)CC(=O)OC)=O | InChI=1S/C22H25FN4O3S.ClH/c1-30-20(28)12-27-13-24-19(25-27)10-15-11-26(9-8-18(15)31)21(22(29)14-6-7-14)16-4-2-3-5-17(16)23;/h2-5,10,13-14,18,21,31H,6-9,11-12H2,1H3;1H/b15-10+;
